US05807846
2,6-Diisopropylbenzoyl chloride
A mixture of 2,6-diisopropylbenzoic acid (12.8 g, 0.062 mol), oxalyl chloride (25 mL), and dimethylformamide (2 drops) was stirred overnight at room temperature. The volatiles were removed on the rotary evaporator and the residue dried to yield an orange oil, 12.65 g, 90.9%.

reactant | 2,6-diisopropylbenzoic acid | 0.062 mol, 12.8 g | C(C)(C)C1=C(C(=O)O)C(=CC=C1)C(C)C | C13H18O2
reactant | oxalyl chloride | 25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 2,6-Diisopropylbenzoyl chloride | C(C)(C)C1=C(C(=O)Cl)C(=CC=C1)C(C)C | C13H17ClO
